US05864043
tert.butyl 4'-[(2-(4-hydroxyphenyl)-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate melting point: 258°-260° C.
tert.butyl 4'-[(2-n-butyl-6-carboxy-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate oil, Rf value: 0.90 (Silica gel: methylene chloride/methanol/acetic acid=9:0.8:0.2)

reactant | tert.butyl 4'-[(2-n-butyl-6-carboxy-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=C(C=C2)C(=O)O | C30H32N2O4
reactant | methylene chloride methanol acetic acid | C(Cl)Cl.CO.C(C)(=O)O
product | tert.butyl 4'-[(2-(4-hydroxyphenyl)-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate | OC1=CC=C(C=C1)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=CC=C2 | C31H28N2O3
